US07557213B2
Preparation of 1-[1-(6-Bromo-pyridin-2-yl)-ethyl]-3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 55 mg (0.20 mmol) of 3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one, 10 mg (0.26 mmol) of 60% sodium hydride, 68 mg (0.26 mmol) of 2-bromo-6-(1-bromo-ethyl)-pyridine and 0.7 mL of N,N-dimethylformamide. Yield: 24 mg of a white solid: LC-MSD, m/z for C24H20BrN3O2 [M+H]+=462.0, 464.0; HPLC retention time: 1.4 min.

reactant | 3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.20 mmol, 55 mg | CC=1C=C(C=NC1C)C(=O)C1=CNC2=CC=CC=C2C1=O | C17H14N2O2
reactant | sodium hydride | 0.26 mmol, 10 mg | [H-].[Na+]
reactant | 2-bromo-6-(1-bromo-ethyl)-pyridine | 0.26 mmol, 68 mg | BrC1=NC(=CC=C1)C(C)Br | C7H7Br2N
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 1-[1-(6-Bromo-pyridin-2-yl)-ethyl]-3-(5,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)C(C)N1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=C(C1)C)C | C24H20BrN3O2
